US09314023B2
Under nitrogen atmosphere, a mixture of 4-methoxy-3-methyl-phenylboronic acid 1.62 g, 4-bromo-1-methyl-1H-pyrazole 1.57 g, 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex 0.79 g, sodium carbonate 3.51 g, dioxane 100 ml and water 30 ml was stirred with heating under reflux for four hours. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with water, and was dried over anhydrous magnesium sulfate and was then concentrated under reduced pressure. The resulting residue was subjected to a silica gel column chromatography to give 4-(4-methoxy-3-methyl-phenyl)-1-methyl-1H-pyrazole 1.3 g.

reactant | 4-methoxy-3-methyl-phenylboronic acid | 1.62 g | COC1=C(C=C(C=C1)B(O)O)C | C8H11BO3
reactant | 4-bromo-1-methyl-1H-pyrazole | 1.57 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | sodium carbonate | 3.51 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 4-(4-methoxy-3-methyl-phenyl)-1-methyl-1H-pyrazole | 1.3 g | COC1=C(C=C(C=C1)C=1C=NN(C1)C)C | C12H14N2O
